US07144899B2
Step D: 2-Methylleucyl-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-L-prolinamide
Each diastereomer of N-(tert-butoxycarbonyl)-2-methylleucyl-N-[5-chloro-2(1H-tetraazol-1-yl)benzyl]-L-prolinamide (A: 86 mg, 0.161 mmol; B: 84 mg, 0.158 mmol) was dissolved in a 2:1 solution of CH2Cl2/TFA (3 mL) and stirred for 1 h. Both reactions were then concentrated to oils. Purification by reverse phase chromatography [95:5 water (+0.1% TFA)/CH3CN (+0.1% TFA) to 5:95 water (+0.1% TFA)/CH3CN (+0.1% TFA)] afforded each diastereomer as a clear oil. Diastereomer A: 1H NMR (300 MHz, CDCl3): δ0 9.32 (s, 1 H), 8.08 (br s, 2 H), 7.78 (t, J=5.1 Hz, 1 H), 7.64 (d, J=2.4Hz, 1 H), 7.44 (dd, J=2.1, 8.7 Hz, 1 H), 7.29 (d, J=8.7 Hz, 1 H), 4.44–4.41 (m, 1 H), 4.23 (m, 2 H), 3.67–3.63 (m, 2 H), 2.28–2.24 (m, 1 H), 2.08–1.85 (m, 5 H), 1.78–1.71 (m, 1 H), 1.68 (s, 3 H), 0.86 (d, J=6.3 Hz, 3 H), 0.78 (d, J=6.6 Hz, 3 H). LCMS (M+H): 434.0. Diastereomer B: 1H NMR (300 MHz, CDCl3): δ 9.17 (s, 1 H), 8.30 (br s, 2 H), 8.08–8.04 (m, 1 H), 7.55 (d, J=2.1 Hz, 1 H), 7.44 (dd, J=2.1, 8.7 Hz, 1 H), 7.30 (d, J=8.7 Hz, 1 H), 4.49–4.45 (m, 1 H), 4.26–4.21 (m, 2 H), 3.77–3.66 (m, 2 H), 2.16–1.80 (m, 6 H), 1.77 (s, 3 H), 1.72–1.66 (m, 1 H), 0.92 (d, J=6.6 Hz, 3 H), 0.79 (d, J=6.3 Hz, 3 H). LCMS (M+H): 434.0.

reactant | N-(tert-butoxycarbonyl)-2-methylleucyl-N-[5-chloro-2(1H-tetraazol-1-yl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@](CC(C)C)(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)N2N=NN=C2)CCC1)C | C25H36ClN7O4
solvent | CH2Cl2 TFA | 3 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 2-Methylleucyl-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-L-prolinamide | C[C@](N)(CC(C)C)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)N2N=NN=C2)CCC1 | C20H28ClN7O2
